Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abdominal pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y.o female who presents with abdominal pain in a bandline 
distribution in both upper and lower abdomen after 
jogging/exercising for the first time 4 days ago. Pt states that 
the pain increased over the first few days and is now constant 
up to ___. Pt reports vomiting after exercising but denies 
fever, chills, current vomiting, nausea, dysuria, diarrhea. Pt 
reporting normal bowel movements. Pt stated that pain prevented 
her from standing upright or walking. She denied taking any 
medication for pain. Pt able to eat and drink. Pt denies any 
pain prior to exercise. She denies pain in her extremities. 
.
In the ED, VSS. Pt was noted to have mild tenderness to 
palpation over the chest wall and distal muscles, abdomen soft. 
She was given 6 L IVF, and bicarb as well as tordol. 
.
10pt ROS reviewed and otherwise negative including for headache, 
other CP, sob, cough.  
 
Past Medical History:
Pt denies any ___
 
Social History:
___
Family History:
denies any family history of medical problems 
 
Physical Exam:
GEN: well appearing, NAD, sitting upright in bed 
vitals: T 98.1 BP 103/67 HR 63 RR 18 sat 100% on RA 
HEENT: ncat eomi anicteric MMM
neck: supple
chest: b/l ae no w/c/r, Tenderness in the lower chest 
musculature 
heart: s1s2 rr no m/r/g
abd: +bs, soft, +TTP abdominal musculature near the chest and 
lower abdominal insertions, ND, no guarding or rebound
ext: no c/c/e 2+pulses
neuro: face symmetric, speech fluent
psych: calm, cooperative 

Discharge Exam: 
GEN: Alert, NAD, AxOx3
HEENT: NC/AT, MMM, OP clear
CV: RRR, no m/r/g
PULM: CTA B no w/r/r
GI: S/ND, BS present, non tender
EXT: no ___ edema or calf tenderness
NEURO: ___
 
 
Pertinent Results:
Admission Labs:
___ 12:13PM BLOOD ___ 
___ Plt ___
___ 12:13PM BLOOD ___ 
___ Im ___ 
___
___ 12:13PM BLOOD ___ 
___
___ 12:13PM BLOOD CK(CPK)-4919*
___ 10:10PM BLOOD ___
___ 10:10PM BLOOD ___

CK Trend: 

___ 10:10PM BLOOD ___ ___ ___ 
___
___ 06:05AM BLOOD ___
___ 01:10PM BLOOD ___
___ 06:50PM BLOOD ___
___ 06:10AM BLOOD ___
___ 02:45PM BLOOD ___
___ 08:27PM BLOOD ___
___ 06:00AM BLOOD ___ ___ 
___
___ 06:36AM BLOOD ___ ___ 
___
___ 06:25AM BLOOD CK(CPK)-5493*
___ 05:50AM BLOOD ___ CK(CPK)-2889* 
___
___ 06:00AM BLOOD CK(CPK)-1396*

Myopathy panel: 
___ 03:20PM BLOOD ___
___ 08:27PM BLOOD ___
___ 08:27PM BLOOD ___ 
___
___ 03:20PM BLOOD ___
___ 03:20PM BLOOD SRP ___
___ 03:20PM BLOOD RO & ___ NEGATIVE      
___ 03:20PM BLOOD RNP ___ NEGATIVE  
___ 03:20PM BLOOD ___ NEGATIVE     
___ 03:20PM BLOOD ___

MRI thighs: 
IMPRESSION: 
 
No evidence of signal changes within the thigh musculature in 
either the right or left thigh to suggest myositis or 
myonecrosis.  Within the thighs, muscle signal and bulk is 
within normal limits.
 
Equivocal high signal in the lower portion of the bilateral 
abdominal
musculature versus artifact due to ___ artifacts.  Of 
note,  there is focally pronounced overlying subcutaneous edema 
which is disproportionate to anything seen within the thighs.
 
If the the patient is symptomatic over the lower rectus 
abdominus musculature, then additional MR imaging through the 
abdomen, with fluid sensitive images and with and without IV 
contrast (contrast, assuming normal renal function), may help to 
identify subtle muscle changes related to the the patient's 
elevated CPK values.

Discharge Labs:
___ 06:25AM BLOOD ___ 
___ Plt ___
___ 06:00AM BLOOD ___
___ 05:50AM BLOOD ___ y/o F with no significant PMHx presenting with abdominal 
pain, with lab work notable for significant CK elevation 
consistent with rhabdomyolysis, and found to have eating 
disorder.

# CK Elevation/Rhabdomyolysis: Concerning for rhabdomyolysis in 
the setting of recently starting exercise vs. metabolic myopathy 
vs. med effect given recent weight loss supplement usage. She 
was given aggressive IVFs and rheumatology was consulted, and 
recommended myopathy panel and MRI thigh. Myopathy panel with 
some labs pending at discharge, the rest negative. MRI thighs 
did not show concerning thigh pathology, however subcutaneous 
edema noted in the lower abdomen. Given that her symptoms 
resolved, did not pursue further imaging during admission. 
However, would have low threshold to image if she ___. 
CK downtrended and at discharge was less than 2K and she was 
monitored for ongoing trend downward for >24 hours off of IVF. 

With interpreter at bedside, discussed with her at length the 
importance of continuing to drink plenty of fluids by mouth upon 
discharge and the importance of close follow up with a new 
primary care doctor, set up at ___, and psychiatry. 

She was also counseled to avoid exercise until follow up, avoid 
vomiting and supplements. 

# Anorexia Nervosa: History is concerning for reports of 
longstanding episodes of emesis after eating. On further 
questioning, she endorses feeling compulsion to vomit because 
she ate too much. Psych saw her and felt that presentation was
consistent with anorexia nervosa. Outpatient follow up 
recommended. Follow up scheduled with Dr. ___ at ___, but 
___ therapist who works with ___ was 
identified and information given to the patient. She was again 
counseled on the importance of follow up and health risks if 
left untreated. 

# Transaminitis: Likely related to rhabdomyolysis. Recommend 
repeat in follow up. 

Transitional: 
- repeat LFTs, CK
- establish care with new PCP
- establish care with psych/therapist

>30 minutes spent on discharge day services, counseling, and 
coordination of care

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Rhabdomyolysis
Anorexia Nervosa

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You presented with damage to your muscles. You were seen by our 
rheumatology doctors and had testing done that showed that the 
damage was probably from too much exercise and no eating and 
drinking well. You were given lots of fluids through the IV and 
the numbers improved. They are much better now, but are not yet 
normal. Please make sure you see your new doctor in the clinic 
to recheck these numbers and ensure that they are normalizing. 
It is very important that you continue to drink lots of fluids, 
and avoid exercise or herbal supplements until you discuss this 
with your new doctor to make sure it is safe.  

You were seen by our psychiatrists for vomiting after you eat, 
and they recommended therapy in the clinic after you are 
discharged. You will see Dr. ___ in clinic. We were able to 
find a ___ therapist, but you will need to call to 
set this appointment up on your own. The number and information 
is listed below. 

 
Followup Instructions:
___